US04003884
c. Glu-His-Trp-Ser-Tyr-D-Ala-Cys(But)-Arg-Pro-NH-C2H5 -diacetate
In analogy to Example 7(e) 448.5 mg (0.5 mol) of H-Ser-Tyr-D-Ala-Cys(But)-Arg-Pro-NH-C2H5 -diacetate were reacted with Glu-His-Trp-NH-NH2, worked up and purified over Dowex 1 × 2 (acetate form) and carboxymethyl cellulose. Since the substance was not completely pure, it was purified in analogy to Example 1(a) on Sephadex LH 20.

reactant | H-Ser-Tyr-D-Ala-Cys(But)-Arg-Pro-NH-C2H5 diacetate | N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)N[C@@H](CSC(C)(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC)CCC1.CC(=O)CC(=O)O
reactant | Glu-His-Trp-NH-NH2 | N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NN | C22H28N8O5
product | Glu-His-Trp-Ser-Tyr-D-Ala-Cys(But)-Arg-Pro-NH-C2H5 diacetate | N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](C)C(=O)N[C@@H](CSC(C)(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC)CCC1.CC(=O)CC(=O)O | InChI=1S/C57H82N16O13S.C4H6O3/c1-6-62-54(85)45-14-10-22-73(45)55(86)39(13-9-21-63-56(59)60)67-53(84)44(29-87-57(3,4)5)72-47(78)31(2)66-49(80)40(23-32-15-17-35(75)18-16-32)69-52(83)43(28-74)71-50(81)41(24-33-26-64-38-12-8-7-11-36(33)38)70-51(82)42(25-34-27-61-30-65-34)68-48(79)37(58)19-20-46(76)77;1-3(5)2-4(6)7/h7-8,11-12,15-18,26-27,30-31,37,39-45,64,74-75H,6,9-10,13-14,19-25,28-29,58H2,1-5H3,(H,61,65)(H,62,85)(H,66,80)(H,67,84)(H,68,79)(H,69,83)(H,70,82)(H,71,81)(H,72,78)(H,76,77)(H4,59,60,63);2H2,1H3,(H,6,7)/t31-,37+,39+,40+,41+,42+,43+,44+,45+;/m1./s1
